US08106043B2
2-Amino-5-nitrobenzenethiol:
To a stirred suspension of 6-nitrobenzo[d]thiazole (1.64 g, 9.10 mmol) in ethanol (16 mL) was added hydrazine hydrate (2.66 mL, 54.6 mmol). The resulting dark solution was stirred overnight at room temperature. The mixture was then diluted with water and slowly acidified with 3 M HCl, giving a yellow suspension. The mixture was then extracted with dichloromethane. The combined organics were dried, filtered, and concentrated, giving a yellow solid, used directly in the subsequent reaction. 1H NMR (DMSO-d6) δ 8.09 (brs, 1H), 7.87 (d, J=8.7 Hz, 1H), 6.74 (d, J=9.0 Hz, 1H), 6.27 (brs, 2H); MS-EI: (m/z, %) 170 (M+, 100), 140 (28), 124 (35).

reactant | 6-nitrobenzo[d]thiazole | 9.10 mmol, 1.64 g | [N+](=O)([O-])C1=CC2=C(N=CS2)C=C1 | C7H4N2O2S
reactant | hydrazine hydrate | 54.6 mmol, 2.66 mL | O.NN
reactant | HCl | 3 M | Cl | ClH
solvent | ethanol | 16 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Amino-5-nitrobenzenethiol | NC1=C(C=C(C=C1)[N+](=O)[O-])S | C6H6N2O2S
